US05703052
(3β,5α,11β,12α,25R)-spirostan-3,11,12-triol:
Using the procedure described in J. Chem. Soc., 1956, 4330, (3β,5α,11β,12α,25R)-23-bromo-12-(trichloroacetoxy)-spirostan-3,11-diol was reduced with zinc and acetic acid to give the title compound.

reactant | (3β,5α,11β,12α,25R)-23-bromo-12-(trichloroacetoxy)-spirostan-3,11-diol | BrC1[C@]2(O[C@@H]3[C@H]([C@@H]2C)[C@]2([C@H]([C@@H]([C@@H]4[C@]5(CC[C@@H](C[C@@H]5CC[C@H]4[C@@H]2C3)O)C)O)OC(C(Cl)(Cl)Cl)=O)C)OC[C@@H](C1)C | C29H42BrCl3O6
catalyst | zinc | [Zn] | Zn
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | (3β,5α,11β,12α,25R)-spirostan-3,11,12-triol | C[C@H]1[C@H]2[C@H](C[C@H]3[C@@H]4CC[C@H]5C[C@H](CC[C@]5(C)[C@H]4[C@H]([C@@H]([C@]23C)O)O)O)O[C@]12CC[C@@H](C)CO2 | C27H44O5
